US04968702
3-Amino-2-(4-phenoxvphenvl)-4-quinolinecarboxylic acid
A 3.68 g portion of isatin was suspended in 36 ml of water. A solution of 5.62 g of sodium hydroxide in 20 ml of water was added and the mixture was heated to 90° C. A solution of 9.24 g of 2-amino-4'-phenylacetophenone in 122 ml of ethanol:water (1:1), containing sufficient tetrahydrofuran to effect solution was added dropwise to the isatin solution over 2 hours. This mixture was stirred at reflux for 2 hours, then the solvent was distilled off. The remaining solution was cooled in an ice bath, then filtered and the filtrate acidified to pH 5. The resulting solid was collected, washed with water and air dried, then recrystallized from acetonitrile. This solid was suspended in 200 ml of water, basified with sodium hydroxide and extracted with dichloromethane. The aqueous remainder was filtered and the filtrate acidified to pH 3 with glacial acetic acid. The solid was collected and dried in vacuo, giving 3.80 g of the desired product, mp 218°-220° C.

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydroxide | 5.62 g | [OH-].[Na+]
reactant | 2-amino-4'-phenylacetophenone | 9.24 g | NCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H13NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethanol water | 122 ml | C(C)O.O
solvent | water | 36 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 3-Amino-2-(4-phenoxvphenvl)-4-quinolinecarboxylic acid | 3.80 g | NC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H16N2O3
